US05643562
Sodium ethane-1,2-disulfonate
A mixture of 1,2-dibromoethane (37.6 g, 0.20 tool) and sodium sulfite (63.0 g, 0.5 mol) in water (225 mL) was heated at reflux temperature for 20 h. After the mixture was cooled in the refrigerator, crystals were collected. The crude product was repeatedly recrystallized from water-ethanol. The trace amount of inorganic salts was removed by treating the aqueous solution with a small amount of silver(I) oxide and barium hydroxide. The basic solution was neutralized with Amberlite-120 ion-exchange resin and treated three times with Amberlite-120(sodium form) ion-exchange resin. After removal of the water, the product was recrystallized from water-ethanol to afford the title compound (30.5 g).

reactant | 1,2-dibromoethane | 37.6 g | BrCCBr | C2H4Br2
reactant | sodium sulfite | 0.5 mol, 63.0 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 225 mL | O | H2O
product | Sodium ethane-1,2-disulfonate | 30.5 g | C(CS(=O)(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/C2H6O6S2.2Na/c3-9(4,5)1-2-10(6,7)8;;/h1-2H2,(H,3,4,5)(H,6,7,8);;/q;2*+1/p-2
